US06717016B2
(d) Synthesis of 4-(2-fluorophenyl)-3-hydroxy-2-methylbutyl Tosylate
Under a nitrogen atmosphere, a mixture of 13.5 g (68.1 mmol) of 4-(2-fluorophenyl)-3-hydroxy-2-methylbutane-1,3-diol, 14.2 ml (21.3 mmol) of triethylamine, and 70 ml of dichloromethane was cooled with an ice bath and 13.0 g (68.1 mmol) of p-toluenesufonyl chloride was added to the mixture. After stirring overnight at room temperature, 100 ml of water was added thereto, followed by extraction 3 times each with 200 ml of dichloromethane, and the combined organic layer was dried with anhydrous sodium sulfate. After drying, the solvent was distilled off and the residue was purified by silica gel column chromatography to obtain 21.1 g of the title compound as a colorless oil. (Yield: 88%)

reactant | 4-(2-fluorophenyl)-3-hydroxy-2-methylbutane-1,3-diol | 68.1 mmol, 13.5 g | FC1=C(C=CC=C1)CC(C(CO)C)(O)O | C11H15FO3
reactant | triethylamine | 21.3 mmol, 14.2 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 70 ml | ClCCl | CH2Cl2
reactant | p-toluenesufonyl chloride | 68.1 mmol, 13.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 100 ml | O | H2O
product | 4-(2-fluorophenyl)-3-hydroxy-2-methylbutyl Tosylate | 21.1 g, Yield: 88% | S(=O)(=O)(OCC(C(CC1=C(C=CC=C1)F)O)C)C1=CC=C(C)C=C1 | C18H21FO4S
